US07186729B2
To a heated (77° C.) stirring solution of 1-(4-chloro-phenyl)-2-imidazolidin-1-yl-4-methyl-hexan-3-one (110 mg, 0.374 mmol), 2,6-lutidiene (130 μL, 11.229 mmol) and 5 mL isopropanol was added 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (70 mg, 0.187 mmol) portion-wise over a 30 minute period. The resulting solution was monitored using thin layer chromatography and allowed to stir at 77° C. for 16 hours. The solution was concentrated in vacuo at 35° C. The residue was dissolved in ethyl acetate and subjected to column chromatography (SiO2, Biotage 12M column, gradient elution 100% ethyl acetate→92% ethyl acetate/8% methanol with 1% triethyl amine) to afford 54 mg of 1-(4-chloro-phenyl)-2-(3-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-imidazolidin-1-yl)-4-methyl-hexan-3-one as a tan foam. LC/MS: tUV=1.68 min, M/Z=588 amu.

reactant | 1-(4-chloro-phenyl)-2-imidazolidin-1-yl-4-methyl-hexan-3-one | 0.374 mmol, 110 mg | ClC1=CC=C(C=C1)CC(C(C(CC)C)=O)N1CNCC1 | C16H23ClN2O
reactant | 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.187 mmol, 70 mg | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | 1-(4-chloro-phenyl)-2-(3-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-imidazolidin-1-yl)-4-methyl-hexan-3-one | 54 mg | ClC1=CC=C(C=C1)CC(C(C(CC)C)=O)N1CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C35H42ClN3O3
